US04438128
1-Phenoxy-3-[2-(1,3-diethyl-5-methylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol hydrogen fumarate
3.8 g. Phenyl glycidyl ether and 9.8 g. 4-(2-aminoethylamino)-5-methyl-1,3-diethylpyrimidine-2,6(1H,3H)-dione are dissolved in 10 ml. dimethylformamide and left to stand for 24 hours at ambient temperature. The reaction mixture is then poured into water, extracted with methylene chloride, dried and chromatographed on silica gel using, as elution agent, methylene chloridemethanol (9:1 v/v). The yellowish oil (6.8 g.) obtained by evaporation of the pure fractions is dissolved in ethyl acetate, whereafter a solution of 2.1 g. fumaric acid in ethyl acetate is added thereto. The crystalline precipitate obtained is filtered off with suction and washed with ethyl acetate. There are obtained 5.4 g. (42% of theory) of the desired product in the form of colorless crystals which melt at 141°-142° C., with bubble formation.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 4-(2-aminoethylamino)-5-methyl-1,3-diethylpyrimidine-2,6(1H,3H)-dione | NCCNC=1N(C(N(C(C1C)=O)CC)=O)CC | C11H20N4O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-Phenoxy-3-[2-(1,3-diethyl-5-methylpyrimidine-2,4-dion-6-ylamino)-ethylamino]-propan-2-ol hydrogen fumarate | C(\C=C\C(=O)OC(COC1=CC=CC=C1)CNCCNC1=C(C(N(C(N1CC)=O)CC)=O)C)(=O)O | C24H32N4O7
